US03931232
5,6,7,8-Tetrahydro-1-hydroxy-6,9-dimethyl-3-(1,1,2-trimethylheptyl)xanthene
Reaction of 5-(1,1,2-trimethylheptyl)resorcinol with 2-acetyl-5-methylcyclohexanone as described in Example 1 gives the title compound.

reactant | 5-(1,1,2-trimethylheptyl)resorcinol | CC(C(CCCCC)C)(C)C=1C=C(C=C(O)C1)O | C16H26O2
reactant | 2-acetyl-5-methylcyclohexanone | C(C)(=O)C1C(CC(CC1)C)=O | C9H14O2
product | 5,6,7,8-Tetrahydro-1-hydroxy-6,9-dimethyl-3-(1,1,2-trimethylheptyl)xanthene | OC1=CC(=CC=2OC=3CC(CCC3C(C12)C)C)C(C(CCCCC)C)(C)C | C25H38O2
